US06734191B2
AMD11130: Preparation of (6-Amino-pyridin-2-ylmethyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (hydrobromide salt)
Using the general N-alkylation procedure: To a stirred solution of N-[6-(bromomethyl)-2-pyridyl]pivalamide (prepared as described by Harata, M.; Hasegawa, K.; Jitsukawa, K.; Masuda, H.; Einaga, H. Bull. Chem. Soc. Jpn 1998, 71, 1031-1038) (0.129 g, 0.45 mmol) in dry CH3CN (10 mL) was added (1-tert-butoxycarbonyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (0.176 g, 0.47 mmol), N,N-diisopropylethylamine (0.20 mL, 1.15 mmol) and potassium iodide (12 mg, 0.048 mmol). The mixture was stirred under an argon atmosphere at 60° C. for 3.75 h. Purification of the crude material by column chromatography on silica gel (CH2Cl2/MeOH, 98:2 followed by 96:4) gave the alkylated product (0.148 g, 54%) as a brown oil.

reactant | N-[6-(bromomethyl)-2-pyridyl]pivalamide | 0.45 mmol, 0.129 g | BrCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H15BrN2O
reactant | (1-tert-butoxycarbonyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.47 mmol, 0.176 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CNC2CCCC=1C=CC=NC21 | C22H26N4O2
reactant | N,N-diisopropylethylamine | 1.15 mmol, 0.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | potassium iodide | 0.048 mmol, 12 mg | [I-].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | (6-Amino-pyridin-2-ylmethyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.148 g, 54% | NC1=CC=CC(=N1)CN(C1CCCC=2C=CC=NC12)CC1=NC2=C(N1)C=CC=C2 | C23H24N6
